.title KiCad schematic

R5 left_2 0 1kOhm
R4 right_1 0 1kOhm
V1 /single_strip/bias 0 DC 0 
I1 0 IN PULSE( 0 0.3uA 1n 10p 3n 10p ) 
R2 left_1 0 1kOhm
R3 main 0 1kOhm
R1 left_2 0 1kOhm
R7 left_2 /single_strip/right_DC 21GOhm
C2 left_2 /single_strip/bias 0.5p
R6 0 left_2 3MegOhm
C1 left_2 left_2 40p
C3 /single_strip/right_DC left_2 40f
C4 left_1 left_2 660f
C7 /single_strip/right_DC /single_strip/bias 0.5p
C5 left_2 left_1 40f
R8 0 /single_strip/right_DC 3MegOhm
C6 left_1 /single_strip/right_DC 40p
R10 /single_strip/right_DC IN 21GOhm
C9 /single_strip/right_DC /single_strip/bias 0.5p
R9 0 /single_strip/right_DC 3MegOhm
C8 left_1 /single_strip/right_DC 40p
C10 IN left_1 40f
C11 main left_1 660f
C14 IN /single_strip/bias 0.5p
C12 /single_strip/right_DC main 40f
R11 0 IN 3MegOhm
C13 main IN 40p
R13 IN /single_strip2/right_DC 21GOhm
C16 IN /single_strip/bias 0.5p
R12 0 IN 3MegOhm
C15 main IN 40p
C17 /single_strip2/right_DC main 40f
C18 right_1 main 660f
C21 /single_strip2/right_DC /single_strip/bias 0.5p
C19 IN right_1 40f
R14 0 /single_strip2/right_DC 3MegOhm
C20 right_1 /single_strip2/right_DC 40p
R16 /single_strip2/right_DC left_2 21GOhm
C23 /single_strip2/right_DC /single_strip/bias 0.5p
R15 0 /single_strip2/right_DC 3MegOhm
C22 right_1 /single_strip2/right_DC 40p
C24 left_2 right_1 40f
C25 left_2 right_1 660f
C28 left_2 /single_strip/bias 0.5p
C26 /single_strip2/right_DC left_2 40f
R17 0 left_2 3MegOhm
C27 left_2 left_2 40p

.control
tran 10p 20n
* <step> <stopping time>
wrdata output/afe/ABCStar_fe/cross_talk.raw v(main)/1k v(left_1)/1k v(left_2)/1k
* 1k for 1kOhm
* save raw data
.endc

.end
